US04415572
5-(1-Piperazinyl)-3,4-dihydrocarbostyril (2.6 g) and 2.34 ml of triethylamine were added to 50 ml of chloroform. The mixture was stirred at room temperature while slowly adding dropwise 10 ml of chloroform solution containing 2.3 g of 4-methylbenzoyl chloride. After completion of addition, the reaction mixture was stirred for 30 minutes. After completion of reaction, 100 ml of chloroform and then a large amount of water was added to separate chloroform and the chloroform layer was washed with sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from chloroformether to give 1.8 g of 5-[4-(4-methylbenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 239.5°-240° C., colorless powders.

reactant | 5-(1-Piperazinyl)-3,4-dihydrocarbostyril | 2.6 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-methylbenzoyl chloride | 2.3 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-[4-(4-methylbenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 1.8 g | CC1=CC=C(C(=O)N2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=C1 | C21H23N3O2
